US07968554B2
To a solution of 4-(4-chloro-benzyloxy)-2-hydroxybenzaldehyde (1.31 g, 5.0 mmol) and sodium cyanoborohydride (1.0 g, 15.9 mmol, Aldrich) in tetrahydrofuran (30 mL) was added methyl orange as an indicator, giving the solution a yellow color; 1N aqueous HCl solution (7.5 mL) was added slowly, keeping the solution orange. The mixture was then stirred overnight at room temperature. Water was added, and the mixture was extracted with ethyl acetate three times. The combined organic phase was washed with water and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography eluting with 0-40% ethyl acetate in hexanes to give 5-(4-chloro-benzyloxy)-2-methyl-phenol. (Yield 0.43 g).

reactant | 4-(4-chloro-benzyloxy)-2-hydroxybenzaldehyde | 5.0 mmol, 1.31 g | ClC1=CC=C(COC2=CC(=C(C=O)C=C2)O)C=C1 | C14H11ClO3
reactant | sodium cyanoborohydride | 15.9 mmol, 1.0 g | C(#N)[BH3-].[Na+]
reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | HCl | 1N, 7.5 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 5-(4-chloro-benzyloxy)-2-methyl-phenol | ClC1=CC=C(COC=2C=CC(=C(C2)O)C)C=C1 | C14H13ClO2
